US06110962
(R)-2-(4-Benzo[b]naphtho[2,3-d]thiophen-11-yl-2,6-dibromo-phenoxy)-4-(1, 3-dioxo-1 , 3-dihydro-isoindol-2-yl)-butyric acid
Iodotrimethylsilane (0.203 mL, 1.43 mmol) was added to a rt, stirred solution of (R)-2-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyric acid, methyl ester (0.770 g, 0.953 mmol) in methylene chloride (8 mL) under a dry nitrogen atmosphere. After 2 h, iodotrimethylsilane (3×0.203 mL, 4.29 mmol) was added to the resulted dark brown solution at rt three times every 12 h. The solution was quenched with water (0.4 mL), concentrated, chased with benzene (3×50 mL). The resulted residue was dissolved in ethyl acetate (60 mL) and silica gel (acid washed, 8 mL) was added. Solvent was removed and the adsorbate was flash chromatographed (eluent 7:3 pet. ether:ethyl acetate) to provide the title compound as a yellow solid (0.304 g, 45%): mp: 222-223° C.; NMR (CDCl3); δ8.37 (s, 1 H), 7.95(d, J=8 Hz, 1 H),7.89-7.85 (m, 2 H), 7.79 (dd, J=8,1 Hz, 1 H), 7.78-7.71 (m, 2 H), 7.64 (d, J=10 Hz, 1 H), 7.62 (d, J=10 Hz, 1 H), 7.59 (dd, J=8, 1 Hz, 1 H), 7.55 (ddd, J=8, 7, 1 Hz, 1 H), 7.46 (ddd, J=8, 7, 1 Hz, 1 H), 7.40 (ddd, J=8, 7, 1 Hz, 1 H), 7.19(ddd, J=8, 7, 1 Hz, 1 H), 6.88(d, J=8 Hz, 1 H), 5.27 (t, J=7 Hz, 1 H, 1 H, CH), 4.12 (m, 2 H), 2.65 (t, J=6 Hz, 2 H); MS (FAB-): [M-H]-, 2 bromine isotope pattern, 713, 714, 716; Anal. Calc. for C34H21Br2NO5S: C, 57.08, H, 2.96, N, 1.96. Found: C, 56.43, H, 2.74, N, 1.90.

reactant | Iodotrimethylsilane | 1.43 mmol, 0.203 mL | I[Si](C)(C)C | C3H9ISi
reactant | (R)-2-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyric acid, methyl ester | 0.953 mmol, 0.770 g | BrC1=C(O[C@@H](C(=O)OC)CCN2C(C3=CC=CC=C3C2=O)=O)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C35H22Br3NO5S
reactant | iodotrimethylsilane | 4.29 mmol, 0.203 mL | I[Si](C)(C)C | C3H9ISi
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(4-Benzo[b]naphtho[2,3-d]thiophen-11-yl-2,6-dibromo-phenoxy)-4-(1, 3-dioxo-1 , 3-dihydro-isoindol-2-yl)-butyric acid | 0.304 g, 45% | C1=CC=CC=2SC3=C(C21)C(=C2C=CC=CC2=C3)C3=CC(=C(O[C@@H](C(=O)O)CCN2C(C1=CC=CC=C1C2=O)=O)C(=C3)Br)Br | C34H21Br2NO5S
